US06872833B2
To a stirred solution of 5.0 g (13.2 mmol) (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid ethyl ester in 60 ml dioxane were added 6.94 g (18.5 mmol) tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane, 456 mg (0.79 mmol) bis(dibenzylideneacetone)palladium and 491 mg (2.12 mmol) trifurylphosphine. The mixture was heated at 100° C. for 3 h, then cooled to room temperature and concentrated in vacuo. Flash chromatography (5/95 acetone/dichloromethane) afforded 4.00 g (90%) [7-(5,6-dihydro-[1,4]dioxin-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid ethyl ester as a light yellow foam. ES-MS m/e (%): 337 (M+H+, 100).

reactant | (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid ethyl ester | 13.2 mmol, 5.0 g | C(C)OC(NC=1SC2=C(N1)C(=CC=C2I)OC)=O | C11H11IN2O3S
reactant | tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane | 18.5 mmol, 6.94 g | C(CCC)[Sn](C=1OCCOC1)(CCCC)CCCC
reactant | trifurylphosphine | 2.12 mmol, 491 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 0.79 mmol, 456 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [7-(5,6-dihydro-[1,4]dioxin-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid ethyl ester | 4.00 g, 90% | C(C)OC(NC=1SC2=C(N1)C(=CC=C2C=2OCCOC2)OC)=O | C15H16N2O5S
